US06825191B2
Step 1: Synthesis of ethyl (5-fluoro-2-nitrobenzyl)aminoacetate
1.8 g (10.7 mmol) of 5-fluoro-2-nitrobenzyl alcohol was dissolved in 20 ml of dichloromethane. 0.9 ml (12.8 mmol) of methanesulfonyl chloride and 2.2 ml (16.1 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature for 2 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 20 ml of ethanol. 1.79 g (12.8 mmol) of glycine ethyl ester hydrochloride and 1.35 g (16.1 mmol) of sodium hydrogencarbonate were added to the obtained solution, and they were stirred at 70° C. for 6 hours. The solvent was evaporated. After the extraction with ethyl acetate, the extract was washed with 1 N hydrochloric acid. The obtained aqueous layer was made basic with 1 N sodium hydroxide. After the extraction with ethyl acetate, the obtained organic layer was washed with saturated aqueous sodium chloride solution and then dried. The solvent was evaporated to obtain the title compound.

reactant | 5-fluoro-2-nitrobenzyl alcohol | 10.7 mmol, 1.8 g | FC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C7H6FNO3
reactant | methanesulfonyl chloride | 12.8 mmol, 0.9 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 16.1 mmol, 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | glycine ethyl ester hydrochloride | 12.8 mmol, 1.79 g | Cl.C(C)OC(CN)=O
reactant | sodium hydrogencarbonate | 16.1 mmol, 1.35 g | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl (5-fluoro-2-nitrobenzyl)aminoacetate | FC=1C=CC(=C(CNCC(=O)OCC)C1)[N+](=O)[O-] | C11H13FN2O4
